US08211923B2
diethyl {[(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate
1.27 g diethyl {[(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate are dissolved in 10 ml dichloromethane and cooled to 0° C. To this are added 410 μl N,N-diisopropyl-ethylamine and 6.8 ml of a 20% solution of phosgene in toluene. The mixture is left for 1 hour with stirring and then the solvents are eliminated in a nitrogen current. The residue is taken up in 40 ml of tetrahydrofuran, 6.45 ml of a 2 M solution of methylamine in tetrahydrofuran are added and the mixture is stirred overnight at ambient temperature. Then it is diluted with dichloromethane and 1 N hydrochloric acid and washed with semisaturated sodium chloride solution. The organic phase is dried on magnesium sulphate, the solvents are eliminated in vacuo and the residue is purified by chromatography on silica gel (dichloromethane/methanol 95:5 to 60:40).

reactant | diethyl {[(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate | 1.27 g | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CP(OCC)(OCC)=O | C19H23Cl2N2O5PS
reactant | N,N-diisopropyl-ethylamine | 410 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | methylamine | CN | CH5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 1 N | Cl | ClH
product | diethyl {[(3,5-dichloro-phenylsulphonyl)-(1-methylcarbamoyl-2,3-dihydro-1H-indol-5-yl)-amino]-methyl}-phosphonate | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCN(C2=CC1)C(NC)=O)CP(OCC)(OCC)=O | C21H26Cl2N3O6PS
